US05155100
To a stirred solution of (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid (10.8 g, 19.3 mmol) in methanol (150 mL) is added potassium fluoride (11.2 g, 193 mmol) followed by 18-crown-6 (100 mg, 0.38 mmol). The solution is refluxed for 7 minutes in a preheated oil bath then stirred at room temperature for 3 hours. The volume is then reduced to 50 mL by evaporation under reduced pressure. The solution is cooled in an ice bath and treated with 2N hydrochloric acid (55 mL) and water (50 mL). The product is extracted with methylene chloride (3×70 mL). The organic layer is washed with brine then dried over sodium sulfate. The solution is filtered and concentrated in vacuo. The residue is crystallized from ether to give (S)-N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid m.p. 122°-123°, [α]D =-10.56° (c=0.86, CH3OH).

reactant | (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | 19.3 mmol, 10.8 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H31N2O6P
reactant | potassium fluoride | 193 mmol, 11.2 g | [F-].[K+]
reactant | 18-crown-6 | 0.38 mmol, 100 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | methanol | 150 mL | CO | CH4O
product | (S)-N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | COP(=O)(OC)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H27N2O6P
